US05712300
Preparation of 3-(2-Methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetic Acid
Sodium hydroxide (283 mg, 7.08 mmol) is added to a mixture of ethyl 3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetate (611 mg, 1.77 mmol), methanol (10 mL), and water (5 mL), and the mixture is allowed to stir overnight at room temperature. The mixture is partitioned with 10 ml of water and 10 mL of Et2O. The layers are separated and the pH of the aqueous layer was adjusted to pH 2 (pH meter) with 1.2N HCl. The aqueous layer is extracted with EtOAc (2×10 mL) and CH2 Cl2 (2×10 mL), and the combined organic layers are dried (MgSO4), filtered and concentrated to give 500 mg (89%) of the title compound as a white foam which is carried on crude.

reactant | Sodium hydroxide | 7.08 mmol, 283 mg | [OH-].[Na+]
reactant | ethyl 3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 1.77 mmol, 611 mg | CC(CC1(C(N(C(C1)=O)CCC1=CC=CC=C1)=O)CC(=O)OCC)C | C20H27NO4
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 3-(2-Methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetic Acid | 500 mg, 89% | CC(CC1(C(N(C(C1)=O)CCC1=CC=CC=C1)=O)CC(=O)O)C | C18H23NO4
